US08138175B2
E) (S)-2-[4-(3,4-Dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-hydroxy-butyric acid methyl ester
In analogy to the procedure described in example 1H, (S)-4-benzyloxy-2-[4-(3,4-dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-butyric acid methyl ester and boron tribromide (after warming up the reaction to maximum to −5° C.) gave after precipitation CH2Cl2/n-pentane 78% of the title compound as a 71:29 mixture of the (R) and (S) diastereomers. Off-white foam, MS: 447.0 (M+OAc−, 2Cl).

reactant | (S)-4-benzyloxy-2-[4-(3,4-dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-butyric acid methyl ester | COC([C@H](CCOCC1=CC=CC=C1)N1CC(N(CCC1=O)C1=CC(=C(C=C1)Cl)Cl)C)=O | C24H28Cl2N2O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | (S)-2-[4-(3,4-Dichloro-phenyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-hydroxy-butyric acid methyl ester | COC([C@H](CCO)N1CC(N(CCC1=O)C1=CC(=C(C=C1)Cl)Cl)C)=O | C17H22Cl2N2O4
